US08314097B2
A. 4-(6,7-Dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-3-methylbenzonitrile
To a solution of 3-bromo-4-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)benzonitrile (0.100 g, 0.347 mmol) given in Example 3 (table 2) and trimethylboroxine (0.145 g, 1.04 mmol) in DME (3 mL), aqueous solutions of Na2CO3 (0.69 mL, 2 M) and KOH (0.17 mL, 2 M) are added. After degassing with nitrogen, Pd(PPh3)4 (0.040 g, 0.035 mmol) is added. The mixture is heated in a microwave reactor at 130° C. 1.5 h. At that point LCMS showed consumption of the starting material. The solution is diluted with ethyl acetate and saturated sodium bicarbonate. The resulting aqueous layer is extracted further with ethyl acetate (3×). The combined organic layers are washed with brine and dried over anhydrous sodium sulfate. After concentration the crude product is filtered through 0.45 μm filter and then purified by preparative HPLC (0% for 5 minutes and 0-34% acetonitrile with 0.1% TFA in 17 minutes). MS (ESI) m/z 224.0 (M+H); 1H NMR (400 MHz, CDCl3) δ ppm 2.33-2.42 (m, 1 H), 2.43 (s, 3 H), 2.84-2:95 (m, 2 H), 3.07-3.18 (m, 1 H), 5.54 (dd, J=8.1, 4.8 Hz, 1 H), 6.65 (d, J=8.1 Hz, 1 H), 6.83 (s, 1 H), 7.32 (s, 1 H), 7.41 (d, J=8.1 Hz, 1 H), 7.50 (s, 1 H).

reactant | 3-bromo-4-(6,7-dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)benzonitrile | 0.347 mmol, 0.100 g | BrC=1C=C(C#N)C=CC1C1CCC=2N1C=NC2 | C13H10BrN3
reactant | trimethylboroxine | 1.04 mmol, 0.145 g | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | Na2CO3 | 2 M, 0.69 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | KOH | 2 M, 0.17 mL | [OH-].[K+]
solvent | DME | 3 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.035 mmol, 0.040 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(6,7-Dihydro-5H-pyrrolo[1,2-c]imidazol-5-yl)-3-methylbenzonitrile | C1=C2N(C=N1)C(CC2)C2=C(C=C(C#N)C=C2)C | C14H13N3
